US03991070
EXAMPLE 11 1-Bromo-8-nitro-6-(2-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine
The 5-nitro-2-(3-bromo-5-phthalimidomethyl-4H-1,2,4-triazol-4-yl)-2'-chlorobenzophenone is reacted with hydrazine to form the titled compound.

reactant | 5-nitro-2-(3-bromo-5-phthalimidomethyl-4H-1,2,4-triazol-4-yl)-2'-chlorobenzophenone | [N+](=O)([O-])C=1C=CC(=C(C(=O)C2=C(C=CC=C2)Cl)C1)N1C(=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O)Br | C24H13BrClN5O5
reactant | hydrazine | NN | H4N2
product | 1-Bromo-8-nitro-6-(2-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | BrC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(C=C1)[N+](=O)[O-] | C16H9BrClN5O2
